US05521177
a) Methyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol -1-yl)-methyl]biphenyl-2-carboxylate
Prepared analogously to Example 1a from 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole and methyl 4'-bromomethyl-biphenyl-2-carboxylate.

reactant | 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole | C(CC)C1=NC2=C(N1)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C19H17N3O2
reactant | methyl 4'-bromomethyl-biphenyl-2-carboxylate | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
product | Methyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol -1-yl)-methyl]biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C34H29N3O4
